US05760054
To a stirred solution of 10 g of N-(4-(2-tetrahydropyranyloxy)butyl)-carboxy-1,4-benzodioxane-6-sulfonamide and 7 mL of triethylamine in 200 mL of dichloromethane cooled to 0° C. was added 2 mL of methyl chloroformate dropwise. After 3 h at 20° C., the mixture was shaken with 50 mL of saturated sodium carbonate, dried over MgSO4 and concentrated under reduced pressure. The residue was disolved in 200 mL of methanol containing 1 g of p-toluenesulfonic acid monohydrate, stirred overnight at ambient temperature, and concentrated to dryness under reduced pressure. The residue was dissolved in 200 mL of ethyl acetate, washed with 5 mL of saturated sodium carbonate, dried over MgSO4 and concentrated under reduced pressure. Trituration with ether gave 4 g of 2-(4-hydroxybutyl)-1,1-dioxido-5,6-dihydro-[1,4]dioxino[2,3-d]benzisothiazol-3(2H)-one as a white crystalline solid: mp °C.; 1H NMR (400 MHz, CDCl3): 7.4 (d, 1H), 7.25 (d, 1H), 4.5 (m, 2H), 4.4 (m, 2H), 3.8 (t, 2H), 3.7 (t, 2H), 1.95 (m, 2H), 1.7 (m, 2H), 1.55 (br s, 1H).

reactant | N-(4-(2-tetrahydropyranyloxy)butyl)-carboxy-1,4-benzodioxane-6-sulfonamide | 10 g | O1C(CCCC1)OCCCCNS(=O)(=O)C1=CC2=C(OC(CO2)C(=O)O)C=C1 | C18H25NO8S
reactant | triethylamine | 7 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 2 mL | ClC(=O)OC | C2H3ClO2
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-(4-hydroxybutyl)-1,1-dioxido-5,6-dihydro-[1,4]dioxino[2,3-d]benzisothiazol-3(2H)-one | 4 g | OCCCCN1S(C=2C3(C1=O)C(C=CC2)OCCO3)(=O)=O | C13H17NO6S
